US07592373B2
4.14.b. Ethyl 5-amino-2-(2-diethylaminoethoxy)benzoate
Prepared analogously to Example 3.1.b. from 0.30 g ethyl 2-(2-diethylaminoethoxy)-5-nitrobenzoate in ethyl acetate. Yield: 0.27 g (100% of theory); C15H24N2O3 (M=280.37); calc.: molecular ion peak (M+H)+: 281; found: molecular ion peak (M+H)+: 281; Rf value: 0.40 (silica gel, dichloromethane/methanol/ammonia (39:1:0.1)).

reactant | ethyl 2-(2-diethylaminoethoxy)-5-nitrobenzoate | 0.30 g | C(C)N(CCOC1=C(C(=O)OCC)C=C(C=C1)[N+](=O)[O-])CC | C15H22N2O5
reactant | dichloromethane methanol ammonia | ClCCl.CO.N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 5-amino-2-(2-diethylaminoethoxy)benzoate | NC=1C=CC(=C(C(=O)OCC)C1)OCCN(CC)CC | C15H24N2O3
